US07906645B2
2,2,2-Trichloro-N-[3-chloro-4-(trifluoromethyl)phenyl]acetamide
To a solution of 4-amino-2-chlorobenzotrifluoride (300 mg) and pyridine (243 mg) in dichloromethane (10 mL) was added a solution of trichloroacetyl chloride (279 mg) in dichloromethane (5 mL) dropwise. The solution was stirred for 2 hrs and then concentrated at reduced pressure. The residue was purified by silica gel chromatography eluting with 0-10% ethyl acetate in hexane to give the title compound as a white solid (360 mg, 69%).

reactant | 4-amino-2-chlorobenzotrifluoride | 300 mg | NC1=CC(=C(C=C1)C(F)(F)F)Cl | C7H5ClF3N
reactant | pyridine | 243 mg | N1=CC=CC=C1 | C5H5N
reactant | trichloroacetyl chloride | 279 mg | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,2,2-Trichloro-N-[3-chloro-4-(trifluoromethyl)phenyl]acetamide | 360 mg, 69% | ClC(C(=O)NC1=CC(=C(C=C1)C(F)(F)F)Cl)(Cl)Cl | C9H4Cl4F3NO
